*****************************************************************
* NXP PMDPB58UPE
*
* Polarity P-Channel
* Ratings 20V/5.800000E-002OHMS/3.6A
*
* Date Created Wed May 16 04:50:24 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PMDPB58UPE DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565571090143
LS SOURCE 8 8.13461172766793e-10
RLS2 SOURCE 8 2.04445091547576
RLS1 8 7 0.00750225399683472

RDS 7 4 40000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.044339605347598 TC=0.00364700145376704,7.03411365858567E-06
RBD 9 4 0.0174824037250682 TC=0.00364700145376704,7.03411365858567E-06
DBD 9 7 DBD

M1 3 2 6 6 MINT

RGS 2 6 6299212.5984252
CGS 2 6 6.867884e-10
RG 1 2 10.0267654920063

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -8	863.01
+ -6	867.805
+ -5	869.564
+ -4	870.478
+ -3	869.852
+ -2	865.596
+ -1	567.546
+ -0.5	363.807
+ -0.2	256.329
+ -0.1	253.73
+ 0	189.6475
+ 0.1	153.12353
+ 0.2	152.98777
+ 0.5	129.25563
+ 1	105.71199
+ 2	88.60112
+ 3	81.68629
+ 4	77.4805
+ 5	74.41981
+ 6	72.07837
+ 8	68.65796
+ 10	66.16712
+ 12	64.20493
+ 15	61.9007
+ 16	61.21947
+ 20	59.08371



.MODEL MINT PMOS(Vto=-1.033659534111 Kp=3.451589e+001 Nfs=380200000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=500)

.MODEL DBD D(Bv=24.8 Ibv=2.500000E-004 Rs=1E-6 Is=2.75684684864389e-13
+ N=1 M=0.41 VJ=0.61 Fc=0.5 Cjo=9.33413e-11 Tt=1.85e-08)

.ENDS

